US06677352B1
2-anilino-7-chloro-6-fluoro-1-phenyl-1,8-naphthyridin-4(1H)-one (200 mg, 0.55 mmol), DPPP (12 mg, 0.030 mmol), Pd(OAc)2 (6.0 mg, 0.028 mmol), and Cs2CO3 (114 mg, 0.42 mmol) was dissolved in a 1:1 mixture of EtOH (3 mL)/DMF (3 mL). A balloon filled with CO was attached to the flask and the solution was stirred vigorously. The solution was saturated with CO by evacuating the flask followed by back filling the flask with CO. This was repeated 3 times before heating the solution to 70° C. After 4 h of stirring all of the starting material had been consumed and the reaction was cooled to room temperature. The solution was diluted with EtOAc and was washed with water. The organic layer was collected, dried over Na2SO4, and concentrated in vacuo. The crude solid was triturated with Et2O, filtered and dried to give ethyl 7-anilino-3-fluoro-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxylate as a light brown solid (900 mg, 81%): LCMS RT: 2.63 min, MH+: 404.4

reactant | 2-anilino-7-chloro-6-fluoro-1-phenyl-1,8-naphthyridin-4(1H)-one | 0.55 mmol, 200 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C=C2C(C1)=O)F)Cl)C1=CC=CC=C1 | C20H13ClFN3O
reactant | Cs2CO3 | 0.42 mmol, 114 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOH | 3 mL | CCO | C2H6O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.028 mmol, 6.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPP | 0.030 mmol, 12 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
product | ethyl 7-anilino-3-fluoro-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxylate | 900 mg, 81% | N(C1=CC=CC=C1)C1=CC(C=2C=C(C(=NC2N1C1=CC=CC=C1)C(=O)OCC)F)=O | C23H18FN3O3
